US07834021B2
8-Pyrimidin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol.
To a solution of 2-stannyl pyrimidine (200 mmol, 80 g), prepared as previously described in the literature (Tetrahedron, 1994, 50, 275-284), in THF (1 L) was added n-butyllithium (240 mmol, 150 mL) at −78° C. The reaction was stirred for 30 min at −78° C. and 1,4-dioxa-spiro[4.5]decan-8-one (200 mmol, 30 g) was added. The reaction was allowed to stir overnight while warming to ambient temperature. The reaction was then quenched using NH4Cl and extracted using EtOAc (3×400 mL). The organic layers were combined and dried over MgSO4 and concentrated in vacuo. The crude was taken to the next step.

reactant | 2-stannyl pyrimidine | 200 mmol, 80 g | [SnH3]C1=NC=CC=N1
reactant | n-butyllithium | 240 mmol, 150 mL | C(CCC)[Li]
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 200 mmol, 30 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 8-Pyrimidin-2-yl-1,4-dioxaspiro[4.5]decan-8-ol | N1=C(N=CC=C1)C1(CCC2(OCCO2)CC1)O | C12H16N2O3
